US08349860B2
To sodium hydride (300 mg, 60% in mineral oil, 7.50 mmol) in a flask, which was washed with hexane twice, a solution of 3-nitropyrrole (500 mg, 4.46 mmol) and iodomethane (0.560 mL, 8.97 mmol) in DMF (4 mL) was added. Hydrogen gas evolved. The mixture was then stirred at room temperature for 20 h. Water and EtOAc were added. Organic phase was separated, washed with water, dried over Na2SO4, concentrated in vacuo to give 1-methyl-3-nitro-1H-pyrrole (494 mg).

reactant | sodium hydride | 7.50 mmol, 300 mg | [H-].[Na+]
reactant | 3-nitropyrrole | 4.46 mmol, 500 mg | [N+](=O)([O-])C1=CNC=C1 | C4H4N2O2
reactant | iodomethane | 8.97 mmol, 0.560 mL | IC | CH3I
reactant | Hydrogen | [H][H] | H2
solvent | hexane | CCCCCC | C6H14
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | 1-methyl-3-nitro-1H-pyrrole | 494 mg | CN1C=C(C=C1)[N+](=O)[O-] | C5H6N2O2
